US04281016
Synthesis of propargyl-N,N-dimethyldithiocarbamate
16.3 Grams of a 40% dimethylamine aqueous solution was added to 40 ml of dimethylformamide, and while maintaining the mixture at a temperature of 5°-10° C., 4.8 gr of carbon disulfide was added dropwise under agitation over the period of 30 minutes. Thereafter, the temperature of the mixture was maintained at a room temperature and 7.1 gr of propargyl bromide was added dropwise thereto over the period of 30 minutes. The reaction mixture was agitated at the same temperature for one hour and at 40°-50° C. for additional two hours to complete the reaction. The reaction mixture was poured into water and the separated organic substance was extracted twice with 50 ml of benzene, washed with diluted hydrochloric acid and further washed with water, and after removal of benzene by distillation, 9.2 gr of the desired product was obtained. M.p.: 57°-59° C. The results of elemental analysis were shown as follows:

reactant | dimethylamine | CNC | C2H7N
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | carbon disulfide | 4.8 gr | C(=S)=S | CS2
reactant | propargyl bromide | 7.1 gr | C(C#C)Br | C3H3Br
solvent | water | O | H2O
product | propargyl-N,N-dimethyldithiocarbamate | 9.2 gr | C(C#C)SC(N(C)C)=S | C6H9NS2
